US05264454
Triethylamine (1.2 ml) was added dropwise to a mixture of 4-(2-methylphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]benzopyran-3-carboxylic acid (2.56 g), DPPA (2.64 g) and benzene (32 ml). The mixture was stirred at room temperature for 30 minutes and, then, on reflux for 30 minutes. Then, 2,4-difluoroaniline (1.0 ml) was added and the mixture was further refluxed for 30 minutes. The reaction mixture was washed with water, 1N HCl and water in the order mentioned and, then, dried (MgSO4). The solvent was then distilled off to give N-(2,4-difluorophenyl)-N'-[4-(2-methylphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]-benzopyran-3-yl]urea as oil. The oil was crystallized by addition of isopropyl ether (3.4 g, 95.2%). Recrystallization from acetone gave colorless prisms, m.p. 223°-224° C.

reactant | Triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(2-methylphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]benzopyran-3-carboxylic acid | 2.56 g | CC1=C(C=CC=C1)C1=C(C(OC2=C1C=C1C(=C2)CCC1)=O)C(=O)O | C20H16O4
reactant | DPPA | 2.64 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 2,4-difluoroaniline | 1.0 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | benzene | 32 ml | C1=CC=CC=C1 | C6H6
product | N-(2,4-difluorophenyl)-N'-[4-(2-methylphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]-benzopyran-3-yl]urea | FC1=C(C=CC(=C1)F)NC(=O)NC=1C(OC2=C(C1C1=C(C=CC=C1)C)C=C1C(=C2)CCC1)=O | C26H20F2N2O3
